US05650428
The procedure described in Example 115 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-(pyridin-3-yloxy)propanamide (41.7 mg) was hydrolyzed, and then reacted with HCl to obtain (RS)-N-(3-carboxyphenyl)-2-(4-chlorobenzenesulfonylamino)-3-(pyridin-3-yloxy)propanamide hydrochloride (23.3 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-(pyridin-3-yloxy)propanamide | 41.7 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC(=CC=C1)C(=O)OCC)COC=1C=NC=CC1 | C23H22ClN3O6S
reactant | HCl | Cl | ClH
product | (RS)-N-(3-carboxyphenyl)-2-(4-chlorobenzenesulfonylamino)-3-(pyridin-3-yloxy)propanamide hydrochloride | 23.3 mg | Cl.C(=O)(O)C=1C=C(C=CC1)NC(C(COC=1C=NC=CC1)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | InChI=1S/C21H18ClN3O6S.ClH/c22-15-6-8-18(9-7-15)32(29,30)25-19(13-31-17-5-2-10-23-12-17)20(26)24-16-4-1-3-14(11-16)21(27)28;/h1-12,19,25H,13H2,(H,24,26)(H,27,28);1H
